US09278951B2
Synthesis of 1-benzyl-3-methylnaphthyl-4,5-dichloroimidazolium bromide
4,5-dichloroimidazole (10.0 mmol, 1.370 g) and KOH (11.0 mmol, 0.617 g) were placed in a 50 mL round bottom flask with 10 mL acetonitrile. The mixture was brought to reflux (85° C.) and stirred 1 h until KOH was consumed. 2-Bromomethylnapthalene (10.00 mmol, 2.211 g) was added and the solution was stirred 2.5 hours. KBr was removed by vacuum filtration and benzyl bromide (10 mmol) was added to the filtrate. The mixture was stirred at reflux for 1.5 hours. The white precipitate was collected by filtration and analyzed. 1H NMR (500 MHz, d6-DMSO): δ 5.51 (2, 2H), 5.65 (s, 2H), 7.94-8.02 (m, 8H), 7.95-8.06 (m, 4H), 9.63 (s, 1H) ppm.

reactant | 4,5-dichloroimidazole | 10.0 mmol, 1.370 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | KOH | 11.0 mmol, 0.617 g | [OH-].[K+]
reactant | 2-Bromomethylnapthalene | 10.00 mmol, 2.211 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | KBr | [K+].[Br-]
reactant | benzyl bromide | 10 mmol | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-benzyl-3-methylnaphthyl-4,5-dichloroimidazolium bromide | [Br-].C(C1=CC=CC=C1)C1=C(C(=CC2=CC=CC=C12)C)[N+]1=CNC(=C1Cl)Cl | InChI=1S/C21H16Cl2N2.BrH/c1-14-11-16-9-5-6-10-17(16)18(12-15-7-3-2-4-8-15)19(14)25-13-24-20(22)21(25)23;/h2-11,13H,12H2,1H3;1H
